US08314100B2
1-[(2-Methoxy-6-methylquinoxalin-3-yl)aminocarbonyl]-4-(4-acetylphenyl)piperazine (Compound 60)
Ethyl N-(2-methoxy-6-methylquinoxalin-3-yl)carbamate and 1-(4-acetylphenyl)piperazine were reacted by the same way with the example 43 to obtain the titled compound (yield, 87%). 1H NMR (300 MHz, CDCl3): δ 2.45-2.53 (m, 6H), 3.47 (s, 4H), 3.81 (s, 3H), 3.87-4.13 (m, 4H), 6.88 (d, J=8.7 Hz, 2H), 7.22-7.36 (m, 2H), 7.56-7.76 (m, 2H), 7.90 (d, J=8.7 Hz, 2H).

reactant | Ethyl N-(2-methoxy-6-methylquinoxalin-3-yl)carbamate | COC1=NC2=CC=C(C=C2N=C1NC(OCC)=O)C | C13H15N3O3
reactant | 1-(4-acetylphenyl)piperazine | C(C)(=O)C1=CC=C(C=C1)N1CCNCC1 | C12H16N2O
product | 1-[(2-Methoxy-6-methylquinoxalin-3-yl)aminocarbonyl]-4-(4-acetylphenyl)piperazine | 87% | COC1=NC2=CC=C(C=C2N=C1NC(=O)N1CCN(CC1)C1=CC=C(C=C1)C(C)=O)C | C23H25N5O3
